US06214869B1
(cis)-2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl methanol
Diethylzinc (63 mmol, 1.0 M in hexanes) was added dropwise to a mixture of (cis)-3-(2,3-dihydrobenzofuran-4-yl)prop-2-en-1-ol (12.6 mmol) in 10 mL of CH2Cl2 at −15° C. The resulting mixture was stirred at −15° C. for 1 h followed by the dropwise addition of CH2CI2 (63 mmol). The resulting mixture was warmed to RT and stirred overnight. The crude reaction mixture was then quenched with saturated aqueous NH4Cl solution at 0° and extracted with ether (2×100 mL). The combined organic extracts were washed with saturated aqueous NH4Cl solution, dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by silica gel column chromatography (Hexanes:EtOAc, 4:1) provided 2.06 g (86%) of the desired product.

reactant | Diethylzinc | 63 mmol, 1.0 M | C(C)[Zn]CC
reactant | (cis)-3-(2,3-dihydrobenzofuran-4-yl)prop-2-en-1-ol | 12.6 mmol | O1CCC2=C1C=CC=C2\C=C/CO | C11H12O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (cis)-2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl methanol | 2.06 g, 86% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CO | C12H14O2
